US09303033B2
To 5-chloro-N-cyclopropylpyrazolo[1,5-a]pyrimidin-7-amine (500 mg, 2.396 mmol) in EtOH (10 mL) was added 4-amino-2-chlorophenol (516 mg, 3.59 mmol) followed by concentrated HCl (0.218 mL, 2.64 mmol). The reaction mixture was stirred at reflux temperature for 4 days. Removed 5 mL of EtOH on rotavap followed by addition of 5 mL of diethyl ether. The resulting solid was filtered off and rinsed with diethyl ether. Dried under nitrogen to provide 582 mg (77%) of 2-chloro-4-(7-(cyclopropylamino)pyrazolo[1,5-a]pyrimidin-5-ylamino)phenol as the HCl salt. LCMS (ES): >95% pure, m/z 316 [M+1]+.

reactant | 5-chloro-N-cyclopropylpyrazolo[1,5-a]pyrimidin-7-amine | 2.396 mmol, 500 mg | ClC1=NC=2N(C(=C1)NC1CC1)N=CC2 | C9H9ClN4
reactant | 4-amino-2-chlorophenol | 3.59 mmol, 516 mg | NC1=CC(=C(C=C1)O)Cl | C6H6ClNO
reactant | HCl | 2.64 mmol, 0.218 mL | Cl | ClH
solvent | EtOH | 10 mL | CCO | C2H6O
product | 2-chloro-4-(7-(cyclopropylamino)pyrazolo[1,5-a]pyrimidin-5-ylamino)phenol | 582 mg, 77% | ClC1=C(C=CC(=C1)NC1=NC=2N(C(=C1)NC1CC1)N=CC2)O | C15H14ClN5O
